US07157447B2
3-(Benzyloxy)-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxylic acid.
A solution of intermediate 6, ethyl 3-(benzyloxy)-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxylate (0.300 g, 0.91 mmol) in ethanol (10 ml) was treated with 3 ml (3.0 mmol) of 1 N sodium hydroxide and stirred at 25° C. for 30 min. The solution was then acidified with 1 N hydrochloric acid, extracted with ethyl acetate, washed with brine and dried over anhydrous magnesium sulfate. Evaporation of the solvent gave 0.264 g (96% yield) of the title acid as white crystals; mp 171° C. (ethyl acetate). 1HNMR 400 MHz (CDCl3) δ (ppm): 4.03 (2H, t, J=5.3 Hz, CH2), 4.12 (2H, t, J=5.3 Hz, CH2), 4.73 (2H, s, OCH2), 5.53 (2H, s, OCH2), 7.35–7.42 (3H, m, aromatics), 7.53 (2H, m, aromatics). Anal. Calcd for C15H14N2O5: C, 59.60; H, 4.67; N, 9.27. Found: C, 59.35; H, 4.69; N, 9.10.

reactant | ethyl 3-(benzyloxy)-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxylate | 0.91 mmol, 0.300 g | C(C1=CC=CC=C1)OC1=C(N=C2COCCN2C1=O)C(=O)OCC | C17H18N2O5
reactant | sodium hydroxide | 3.0 mmol, 1 N, 3 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1 N | Cl | ClH
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 3-(Benzyloxy)-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxylic acid | 96% yield | C(C1=CC=CC=C1)OC1=C(N=C2COCCN2C1=O)C(=O)O | C15H14N2O5
